US08134147B2
Step 2: Synthesis of N,N-diphenylanilin-4-boronic acid
10 g (30 mmol) of 4-bromotriphenylamine was put into a 500 mL three-neck flask. The air in the flask was replaced with nitrogen. To the mixture were added 20 mL of tetrahydrofuran (THF), and then the mixture was stirred at −80° C. Into this solution, 20 mL (32 mmol) of n-butyllithium (a 1.6 mol/L hexane solution) was dropped by a syringe. After the dropping, this solution was stirred at the same temperature for 1 hour. After the stirring, 40 mL (60 mmol) of trimethyl borate was added to the solution, and the solution was stirred for 1 hour while the temperature of the solution was being increased to room temperature. To the solution was added 200 mL (1.0 mol/L) of hydrochloric acid, and then the solution was stirred for about 15 hours. The organic layer was washed with a saturated sodium hydrogen carbonate solution and then a saturated saline solution. Then, the organic layer was dried with magnesium sulfate. This mixture was subjected to gravity filtration. The obtained filtrate was condensed to give a white solid. The obtained solid was recrystallized with chloroform/hexane to give 5.2 g of a white powdered solid, which was the object of the synthesis, at a yield of 58%. A synthesis scheme of Step 2 is shown in (c-2) given below.

reactant | 4-bromotriphenylamine | 30 mmol, 10 g | C1=CC=C(C=C1)N(C2=CC=CC=C2)C3=CC=C(C=C3)Br | C18H14BrN
reactant | n-butyllithium | 32 mmol, 20 mL | C(CCC)[Li]
reactant | trimethyl borate | 60 mmol, 40 mL | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 1.0 mol/L, 200 mL | Cl | ClH
solvent | hexane | 1.6 mol/L | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N,N-diphenylanilin-4-boronic acid | 5.2 g, yield of 58% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C18H16BNO2
